US05783572
Methanesulphonyl chloride (239 mg, 2.09 mmol) was added to a solution of 6,7-dichloro-2,3-dimethoxy-5-(1-hydroxyethyl)quinoxaline (527 mg, 1.74 mmol) (Preparation 2) and triethylamine (264 mg, 2.61 mmol) in dry dichloromethane (20 mL) at 20° C. The mixture was stirred for 30 minutes, then tetra-n-butyl ammonium chloride (726 mg, 2.61 mmol) was added in portions. After a further 30 minutes at 20° C., brine (20 mL) was added and the organic layer separated. The aqueous layer was extracted with dichloromethane (2×20 mL), and the combined extracts were dried (MgSO4) and concentrated under reduced pressure. Purification by flash chromatography using hexane/dichloromethane (1:1) gave 5-(1-chloroethyl)-6,7-dichloro-2,3-dimethoxyquinoxaline (95 mg, 17%), as a white solid.

reactant | Methanesulphonyl chloride | 2.09 mmol, 239 mg | CS(=O)(=O)Cl | CH3ClO2S
reactant | 6,7-dichloro-2,3-dimethoxy-5-(1-hydroxyethyl)quinoxaline | 1.74 mmol, 527 mg | ClC=1C(=C2N=C(C(=NC2=CC1Cl)OC)OC)C(C)O | C12H12Cl2N2O3
reactant | triethylamine | 2.61 mmol, 264 mg | C(C)N(CC)CC | C6H15N
solvent | dichloromethane | 20 mL | ClCCl | CH2Cl2
catalyst | tetra-n-butyl ammonium chloride | 2.61 mmol, 726 mg | [Cl-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | brine | 20 mL | [Cl-].[Na+].O
product | 5-(1-chloroethyl)-6,7-dichloro-2,3-dimethoxyquinoxaline | 95 mg, 17% | ClC(C)C1=C2N=C(C(=NC2=CC(=C1Cl)Cl)OC)OC | C12H11Cl3N2O2
